US05624950
To a solution of 0.44 g of (3aRS,4RS,5RS,7aRS)-7,7-dimethyl-4-(2-methoxyphenyl)-4,5-perhydroisoindolediol and 0.29 g of 3-indoleacetic acid in 40 cm3 of dichloromethane, cooled to 0° C., are added 5 mg of 1-hydroxybenzotriazole, 0.35 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 0.42 cm3 of diisopropylethylamine. The mixture is stirred for 15 hours at room temperature, 100 cm3 of dichloromethane are added and the organic phase is washed with 50 cm3 of aqueous sodium bicarbonate solution and with 60 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The cream-coloured foam obtained is chromatographed on a column of silica gel (particle size 0.04-0.06 mm, diameter 1 cm, height 30 cm), eluting under a pressure of 0.5 bar nitrogen with a mixture of dichloromethane and methanol (97/3 by volume) and collecting 30 cm3 fractions. Fractions 5 to 7 are combined and then concentrated to dryness under reduced pressure (2.7 kPa); the solid obtained is recrystallized in 5 cm3 of isopropyl ether. 0.48 g of (3aRS,4RS,5RS,7aRS)-7,7-dimethyl-4-(2-methoxyphenyl)-2-[(3-indolyl)acetyl]-4,5-perhydroisoindolediol is obtained, melting at 160-165° C.

reactant | (3aRS,4RS,5RS,7aRS)-7,7-dimethyl-4-(2-methoxyphenyl)-4,5-perhydroisoindolediol | 0.44 g | CC1(CC(C(C2CNCC12)(O)C1=C(C=CC=C1)OC)O)C | C17H25NO3
reactant | 3-indoleacetic acid | 0.29 g | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.35 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 0.42 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
catalyst | 1-hydroxybenzotriazole | 5 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | (3aRS,4RS,5RS,7aRS)-7,7-dimethyl-4-(2-methoxyphenyl)-2-[(3-indolyl)acetyl]-4,5-perhydroisoindolediol | 0.48 g | CC1(CC(C(C2CN(CC12)C(CC1=CNC2=CC=CC=C12)=O)(O)C1=C(C=CC=C1)OC)O)C | C27H32N2O4
